US07465744B2
13.1 1-[2-(Trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-7-yl]ethanone
2-(Trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline (140 mmol, 32.00 g) was introduced into CS2 (190 ml). Aluminum trichloride (837 mmol, 111.60 g) was added thereto in portions at room temperature. Acetyl chloride (419.12 mmol, 32.90 g) was then added dropwise in such a way that gentle refluxing took place, and the mixture was heated to reflux for a further hour. The reaction mixture was poured into ice-water and extracted with dichloromethane. The organic phase was dried, filtered with suction and concentrated and then stirred with isopropanol. 22 g of the title compound were obtained with a melting point of 80° C.

reactant | 2-(Trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline | 140 mmol, 32.00 g | FC(C(=O)N1CC2=CC=CC=C2CC1)(F)F | C11H10F3NO
reactant | Aluminum trichloride | 837 mmol, 111.60 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Acetyl chloride | 419.12 mmol, 32.90 g | C(C)(=O)Cl | C2H3ClO
solvent | CS2 | 190 ml | C(=S)=S | CS2
product | 1-[2-(Trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-7-yl]ethanone | 22 g | FC(C(=O)N1CC2=CC(=CC=C2CC1)C(C)=O)(F)F | C13H12F3NO2
